US08217066B2
Step 3: 1-[4′-(4-Bromo-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester:
1-[4′-(3-Methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester (1.00 g, 2.88 mmol) was dissolved in acetic acid (12 mL) and N-bromosuccinimide (0.563 g, 3.2 mmol) was added. After stirring at room temperature for 1 hour, the reaction mixture was submitted to standard aqueous workup to give the title compound, which was used in the next step without further purification.

reactant | 1-[4′-(3-Methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester | 2.88 mmol, 1.00 g | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=CC(=NO1)C | C22H21NO3
reactant | N-bromosuccinimide | 3.2 mmol, 0.563 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetic acid | 12 mL | C(C)(=O)O | C2H4O2
product | 1-[4′-(4-Bromo-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)Br | C22H20BrNO3
